US04927968
1-Amino-2-[3-(3-chloromethylphenoxy)propylamino]-1-cyclobutene-3,4-dione
When 1-amino-2-[3-(3-hydroxymethyl-phenoxy)propylamino]-1-cyclobutene-3,4-dione is treated with at least one equivalent of thionyl chloride, there is thereby produced the title compound.

reactant | 1-amino-2-[3-(3-hydroxymethyl-phenoxy)propylamino]-1-cyclobutene-3,4-dione | NC1=C(C(C1=O)=O)NCCCOC1=CC(=CC=C1)CO | C14H16N2O4
reactant | thionyl chloride | at least one equivalent | S(=O)(Cl)Cl | Cl2OS
product | 1-Amino-2-[3-(3-chloromethylphenoxy)propylamino]-1-cyclobutene-3,4-dione | NC1=C(C(C1=O)=O)NCCCOC1=CC(=CC=C1)CCl | C14H15ClN2O3
